US05977152
(2R*,3R*)-1-(1H-1,2,4-Triazol-1-yl)-2-[4-(trifluoromethyl)phenyl]-3-[[trans-2-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol
Reaction was carried out in the same manner as in Example 1 using (2R*,3R*)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane and trans-5-(acetylthio)-2-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxane to obtain the title compound as an oil in a yield of 71%.

reactant | (2R*,3R*)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | C[C@@H]1[C@H](O1)CN1N=CN=C1 | C6H9N3O
reactant | trans-5-(acetylthio)-2-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxane | C(C)(=O)S[C@H]1CO[C@@H](OC1)\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F | C17H17F3O3S
product | (2R*,3R*)-1-(1H-1,2,4-Triazol-1-yl)-2-[4-(trifluoromethyl)phenyl]-3-[[trans-2-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol | yield of 71% | N1(N=CN=C1)C[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F)(O)C1=CC=C(C=C1)C(F)(F)F | C28H27F6N3O3S
